US06777432B1
To mixture of the of N-(4-fluoro-3-nitro-phenyl)-6-mercapto-nicotinamide (200 mg, 0.68 mmol) and ethyl bromoacetate (113 μL, 1.02 mmol) in DMF (5 mL) was added DIPEA (243 μL, 1.4 mmol). The reaction mixture was stirred for 10 minutes before being poured into water and being extracted with ethyl acetate (3×50 mL). The combined extracts were washed with water and brine and were dried over magnesium sulfate. Filtration followed by concentration in vacuo gave 278 mg (100%) of [5-(4-fluoro-3-nitro-phenylcarbamoyl)-pyridin-2-ylsulfanyl]-acetic acid ethyl ester as a solid: 1H NMR (300 MHz, acetone-d6) δ 10.0 (bs, 1H), 9.02 (m, 1H), 8.21 (m, 1H), 8.18 (m, 2H, 7.46 (m, 2H), 4.16 (m, 2H) (s, 2H), 1.22 (m, 3H); MS (EI) m/z 377.88 (M−H)−.

reactant | N-(4-fluoro-3-nitro-phenyl)-6-mercapto-nicotinamide | 0.68 mmol, 200 mg | FC1=C(C=C(C=C1)NC(C1=CN=C(C=C1)S)=O)[N+](=O)[O-] | C12H8FN3O3S
reactant | ethyl bromoacetate | 1.02 mmol, 113 μL | BrCC(=O)OCC | C4H7BrO2
reactant | DIPEA | 1.4 mmol, 243 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [5-(4-fluoro-3-nitro-phenylcarbamoyl)-pyridin-2-ylsulfanyl]-acetic acid ethyl ester | 278 mg, 100% | C(C)OC(CSC1=NC=C(C=C1)C(NC1=CC(=C(C=C1)F)[N+](=O)[O-])=O)=O | C16H14FN3O5S
